* source ECE351LAB6
R_Rinternal         N00815 VIN 50 
R_R1         N00496 N00307 10.2k 
R_RC1         N00496 V1 820 
R_R2         N00307 N00436 1960 
R_RE1         N00348 N00436 180 
R_R3         N00496 N00352 10.2k 
R_R4         N00352 N00436 1960 
R_RE2         N00374 N00436 180 
R_Rload         VO 0 100 
C_C1         VIN N00307 100u 
C_C2         V1 N00352 100u 
C_C3         VO N00374 100u 
Q_Q1         N00496 N00352 N00374 Q2N3904
Q_Q2         V1 N00307 N00348 Q2N3904
V_Vcc         N00496 0  DC 15
V_Vee         0 N00436  DC 15
V_V3         N00815 0  AC 1 0
C_C4         N00348 0 1000u 
